US09107911B2
Synthesis of Iodomethyl Arachidate
Sodium iodide (8.31 g, 0.0555 mol) was added to a solution of chloromethyl arachidate (6.7 g, 0.0185 mol) in acetonitrile (67 ml) at 25° C. The flask was covered in aluminum foil to protect from light and stirred at 25° C. for 16 hours. The reaction mixture was partitioned between dichloromethane and water. The aqueous layer was extracted with dichloromethane. The combined organic extracts were washed with aqueous saturated NaHCO3, aqueous sodium sulfite (10% solution), and brine, then dried with sodium sulphate and concentrated in vacuo to provide the desired product (5.9 g, 71% yield) as a white solid which was not purified any further.

reactant | Sodium iodide | 0.0555 mol, 8.31 g | [I-].[Na+]
reactant | chloromethyl arachidate | 0.0185 mol, 6.7 g | C(CCCCCCCCCCCCCCCCCCC)(=O)OCCl | C21H41ClO2
solvent | acetonitrile | 67 ml | C(C)#N | C2H3N
solvent | aluminum | [Al] | Al
product | Iodomethyl Arachidate | 5.9 g, 71% yield | C(CCCCCCCCCCCCCCCCCCC)(=O)OCI | C21H41IO2
